US08247556B2
Preparation IV—(S)-2-(5-Nitro-2-pentafluoroethyl-phenoxymethyl)-pyrrolidine
To a solution of (S)-2-(5-nitro-2-pentafluoroethyl-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester in CH2Cl2 (5 mL), TFA (2.5 mL) was added and stirred at RT for 1 h. The mixture was diluted with CH2Cl2 (20 mL) and neutralized with sat NaHCO3 and then 2N NaOH. The mixture was transferred to a seperatory funnel and the layers separated. The aqueous layer was extracted with EtOAc and the combined organic layers were dried with MgSO4, filtered and concentrated in vacuo to yield the title compound as a yellow solid.

reactant | (S)-2-(5-nitro-2-pentafluoroethyl-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=C(C=CC(=C1)[N+](=O)[O-])C(C(F)(F)F)(F)F | C18H21F5N2O5
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 2.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(5-Nitro-2-pentafluoroethyl-phenoxymethyl)-pyrrolidine | [N+](=O)([O-])C=1C=CC(=C(OC[C@H]2NCCC2)C1)C(C(F)(F)F)(F)F | C13H13F5N2O3
